US06121463
Dissolve thiophene (4.76 g, 56.5 mmol) in dry diethyl ether. Add n-butyl lithium (62.2 mmol) at room temperature and stir overnight under nitrogen. Cool the mixture to 0° C., add chloro(chloromethyl)dimethylsilane (8.1 g, 56.5 mmol, in 2.5 mL diethyl ether) slowly and stir overnight under nitrogen. Add saturated NH4Cl solution to the reaction mixture. Drain off the aqueous phase and wash the organic phase with brine. Dry the organic phase over Na2SO4, filter and concentrate in vacuo. Distill the residue in a kugelrohr to afford chloromethyl(dimethyl)furylsilane (4.4 g).

reactant | thiophene | 56.5 mmol, 4.76 g | S1C=CC=C1 | C4H4S
reactant | n-butyl lithium | 62.2 mmol | C(CCC)[Li]
reactant | chloro(chloromethyl)dimethylsilane | 56.5 mmol, 2.5 mL, 8.1 g | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | NH4Cl | [NH4+].[Cl-]
reactant | diethyl ether | C(C)OCC | C4H10O
product | chloromethyl(dimethyl)furylsilane | 4.4 g | ClC[Si](C=1OC=CC1)(C)C | C7H11ClOSi
